Integrating ADC

.include lm339.sub
.include ua741.sub
.include 7400.lib

.model switch_on sw(vt = 2.5 vh = 0.2 ron=1u roff = 10e5)
.model switch_off sw(vt = 2.5 vh = 0.2 ron=10e5 roff = 1u)

Vsup psup 0 DC 15
Vnsup nsup 0 DC -15
Vref ref 0 DC 8
*Vin in 0 PULSE(0 8 0 8 100m 15)
Vin in 0 DC 4 
Vcc high 0 DC 5
Vee low 0 DC 0
Vaclk aclk 0 PULSE(0 5 0 1u 1u 19.53125u 39.0625u)

S1 in vct s3 0 switch_on
Rlim s3 vct 100
Xsample vct so psup nsup so ua741
Ct vct gnd 10u

Xunity gnd um psup nsup in2 ua741
Ru um in 10k
Rfu um in2 10k

Vs2 s2 0 PULSE(0 5 0 1u 1u 10m 20m)
Vs3 s3 0 PULSE(0 5 0 1u 1u 100u 20m)

Ssw2 in2 a s2 0 switch_on
Ssw2c ref a s2 0 switch_off

Rint a vm 10k

Cint vm vo 1u
Rfint vm vo 10e5
Ssw3 vm vo s3 0 switch_on

Xopamp gnd vm psup nsup vo ua741

Xcomp vo gnd psup nsup compo lm339
Rcomp compo high 10k

A_ADC [ s2 s3 compo high gnd aclk] [ cs2 cs3 c1 dh dl clk] my_adc
.model my_adc adc_bridge(in_low=1.5 in_high=3.5)

Xinv0 cs2 cs2i 7404

Xctrl1 c1 clk countclk1 7408
xctrl2 countclk1 cs2i countclk 7408

Xinv1 cs3 cs3i 7404

X_LSB countclk dh dh cs3i dh 0 0 0 0 out0 out1 out2 out3 rco1 74161
X_MSB countclk rco1 rco1 cs3i dh 0 0 0 0 out4 out5 out6 out7 rco2 74161

*Xinv_latch c1 latch_clk 7404

Xinv_c1 c1 c1_inv 7404
Xand_latch c1_inv cs2i latch_clk 7408

X_PIPO_Reg dh latch_clk out0 out1 out2 out3 out4 out5 out6 out7 reg_out0 reg_out1 reg_out2 reg_out3 reg_out4 reg_out5 reg_out6 reg_out7 my_74273

A_DAC [ reg_out0 reg_out1 reg_out2 reg_out3 reg_out4 reg_out5 reg_out6 reg_out7 countclk c1] [ outb0 outb1 outb2 outb3 outb4 outb5 outb6 outb7 countclka compo2] my_dac
.model my_dac dac_bridge(out_low=0 out_high=5 t_rise=1n t_fall=1n)

B_DAC val_out 0 V=(V(outb0) + 2*V(outb1) + 4*V(outb2) + 8*V(outb3) + 16*V(outb4) + 32*V(outb5) + 64*V(outb6) + 128*V(outb7))/160

.options reltol=0.01 cshunt=1e-15

* --- CUSTOM BUG-FREE 74273 MODEL ---
.subckt my_74273 clrb clk d1 d2 d3 d4 d5 d6 d7 d8 q1 q2 q3 q4 q5 q6 q7 q8
al l low
.model low d_pulldown
ainv clrb rst_high inv
.model inv d_inverter
adff1 d1 clk l rst_high q1 q1b ls_dff
adff2 d2 clk l rst_high q2 q2b ls_dff
adff3 d3 clk l rst_high q3 q3b ls_dff
adff4 d4 clk l rst_high q4 q4b ls_dff
adff5 d5 clk l rst_high q5 q5b ls_dff
adff6 d6 clk l rst_high q6 q6b ls_dff
adff7 d7 clk l rst_high q7 q7b ls_dff
adff8 d8 clk l rst_high q8 q8b ls_dff
.model ls_dff d_dff(rise_delay=17n fall_delay=18n)
.ends

.tran 1m 60m uic
*.ic v(vo)=0

.control
run
gnuplot intadc v(vo) v(compo2)
.endc

.end
