Band pass filter design

V1 vin 0 PULSE(-2.5, 2.5, 0, 1n, 1n, 0.166m, 0.333m)
R1 1 vin 18k
C1 1 0 561p
C2 1 2 561p
R2 2 0 18k

.control
    tran 10u 1 0.9988
    gnuplot bpf-1 vin 5*v(2)
.endc

