Band pass frequency response

V1 vin 0 AC 5 
R1 1 vin 18k
C1 1 0 561p
C2 1 2 561p
R2 2 0 18k

.control
    ac dec 100 1000 10e5
    gnuplot bpffreq db(v(2))
.endc

