Transient Response in critically damped

Vsource 3 0 PULSE(0 5 3u 1p 1p 50u 50u)
C1 1 0 561p
L1 3 2 50m
R1 2 1 18.88k

.tran 1u 100u

.control
    run
    gnuplot critical_trans v(1) v(3)
.endc

.end
