LM741 with DC Input V1 = 2.5, V2 = 1.5

.include lm741.lib

Vcc vcc_n 0 DC 15
Vee vee_n 0 DC 0

V1 v1_n 0 DC 2.5
V2 v2_n 0 DC 1.5

R3 v2_n vm 100k
R4 vm vout 300k

R1 v1_n vp 100k
R2 vp vee_n 100k

X1 vp vm vcc_n vee_n vout LM741

.tran 50us 1ms

.control
run
gnuplot lm741dc v(v1_n) v(v2_n) v(vout)
.endc

.end
