UA741 differentiator

.include ua741.sub 

Vcc vcc_n 0 DC 15
Vee vee_n 0 DC -15

VIN vin 0 PULSE(-2.5 2.5 0 1n 1n 5m 10m)

C3 vin vm 470n
C4 vm vout 1n
R4 vm vout 8.2k

R2 vp gnd 8.2k

X1 vp vm vcc_n vee_n vout ua741

.tran 10u 3 2.97 

.control
run
gnuplot ua741 v(vin) v(vout)
.endc

.end
