UA741 integrator

.include ua741.sub 

Vcc vcc_n 0 DC 15
Vee vee_n 0 DC -15

Vin vin 0 SIN(0 2.5 100)

R3 vin vm 8.2k
C4 vm vout 470n
R4 vm vout 10e5

R2 vp gnd 8.2k

X1 vp vm vcc_n vee_n vout ua741

.tran 10u 3 2.97 

.control
run
gnuplot ua741 v(vin) v(vout)
.endc

.end
