Step Signal

Vsource 2 0 PULSE(0 5 0.1m 1n 1n 10 10)
R1 1 0 820
C1 2 1 1u

.tran 0.1ms 5ms

.control
    run
    display
    gnuplot step1 v(1) v(2)
.endc

.end
